US07560551B2
A resealable pressure bottle was charged with dichlorobis(triphenyl-phosphine)palladium(II) (106 mg, 0.15 mmol), N,N-dimethylprop-2-yn-1-amine (0.13 ml, 1.5 mmol), 1,4-dichlorophthalazine (300mg, 1.5 mmol), copper(I) iodide (29 mg, 0.15 mmol), TEA (4.2 mL, 30.1 mmol), and ACN (15.0 mL, 0.1M). The vessel was sealed and the mixture was stirred at overnight at 90° C. Next day the reaction was cooled to RT, filtered over celite, and the filtrate was concentrated under reduced pressure to afford a brown residue, which was purified by ISCO silica gel chromatography (5%-7% of 90/10/1 DCM/MeOH/NH4OH to afford 3-(4-chlorophthalazin-1-yl)-N,N-dimethylprop-2-yn-1-amine. MS m/z=246 [M+1]+. Calc'd for C13H12ClN3: 245.7.

reactant | N,N-dimethylprop-2-yn-1-amine | 1.5 mmol, 0.13 ml | CN(CC#C)C | C5H9N
reactant | 1,4-dichlorophthalazine | 1.5 mmol, 300mg | ClC1=NN=C(C2=CC=CC=C12)Cl | C8H4Cl2N2
catalyst | dichlorobis(triphenyl-phosphine)palladium(II) | 0.15 mmol, 106 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.15 mmol, 29 mg | [Cu]I
solvent | ACN | 0.1M, 15.0 mL | C(C)#N | C2H3N
product | 3-(4-chlorophthalazin-1-yl)-N,N-dimethylprop-2-yn-1-amine | ClC1=NN=C(C2=CC=CC=C12)C#CCN(C)C | C13H12ClN3
